US07420083B2
To a slurry of sodium hydride (95%) (0.487 g, 20.3 mmol) in tetrahydrofuran (6 mL) was added 1-(4-tert-butyl-phenyl)-ethanone oxime (0.7021 g, 3.67 mmol) as a solution in tetrahydrofuran (18 mL) and the solution was allowed to stir at room temperature for 40 minutes. 4-(2-Bromo-ethoxy)-2-hydroxy-benzoic acid methyl ester (0.908 g, 3.64 mmol) was added as a solution in tetrahydrofuran (10 mL). The reaction was stirred at room temperature 1 hour and then heated at reflux 3 days. The reaction was cooled, quenched with brine and extracted with ethyl acetate. The combined organics were washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate/hexanes (5/95 to 10/90) afford 4-{2-[1-(4-tert-butyl-phenyl)-ethylideneaminooxy]-ethoxy}-2-hydroxy-benzoic acid methyl ester (0.546 g, 39%) as a yellow oil which solidified on standing. mp=65.4-66.8° C.; mass spectrum (+ESI, M+H) m/z 386. 1H NMR (400 MHz, DMSO-d6); δ 10.63 (s, 1H), 7.69 (d, 1H), 7.57 (d, 2H), 7.40 (d, 2H), 6.55 (m, 2H), 4.42 (t, 2H), 4.31 (t, 2H), 3.75 (s, 3H), 2.14 (s, 3H), 1.28 (s, 9H). Elemental analysis: Calcd. for C22H27NO5: C, 68.55; H, 7.06; N, 3.63, Found: C, 68.91; H, 7.10; N, 3.60.

reactant | sodium hydride | 20.3 mmol, 0.487 g | [H-].[Na+]
reactant | 1-(4-tert-butyl-phenyl)-ethanone oxime | 3.67 mmol, 0.7021 g | C(C)(C)(C)C1=CC=C(C=C1)C(C)=NO | C12H17NO
reactant | 4-(2-Bromo-ethoxy)-2-hydroxy-benzoic acid methyl ester | 3.64 mmol, 0.908 g | COC(C1=C(C=C(C=C1)OCCBr)O)=O | C10H11BrO4
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-{2-[1-(4-tert-butyl-phenyl)-ethylideneaminooxy]-ethoxy}-2-hydroxy-benzoic acid methyl ester | 0.546 g, 39% | COC(C1=C(C=C(C=C1)OCCON=C(C)C1=CC=C(C=C1)C(C)(C)C)O)=O | C22H27NO5
